US06855722B2
b) 3-{5-[3-(5,6,7,8-Tetrahydro-[1,8]naphthyridin-2-yl)-propyl]-indol-1-yl}-hexanoic acid ethyl ester
A mixture of 3-[5-(3-[1,8]naphthyridin-2-yl-propyl)-indol-1-yl]-hexanoic acid ethyl ester (100 mg, 0.665 mmol) and 10% palladium on carbon (30 mg) in methanol (5 mL) was stirred under hydrogen for 2 days. The reaction solution was filtered through celite and dried to give the crude product, which was purified via column chromatography eluting with hexane/ethyl acetate (4/1), to give the title compound (80% yield). 1H NMR (CDCl3) δ 7.39 (d, J=0.9 Hz, 1H), 7.31 (d, J=8.5 Hz, 1H), 7.02-7.10 (m, 3H), 6.44 (dd, J=3.6, 6.3 Hz, 1H), 6.33 (d, J=7.3 Hz, 1H), 5.60 (br, 1H), 4.82 (m, 1H), 3.97 (q, 2H), 3.35 (t, 2H), 2.60-2.80 (m, 8H), 1.80-2.10 (m, 6H), 1.20 (m, 2H), 1.11 (m, 3H), 0.87 (m, 3H). Mass Spectrum (LCMS, ESI) calculated for C27H36N3O2 434.3 (M+H); found 434.4.

reactant | 3-[5-(3-[1,8]naphthyridin-2-yl-propyl)-indol-1-yl]-hexanoic acid ethyl ester | 0.665 mmol, 100 mg | C(C)OC(CC(CCC)N1C=CC2=CC(=CC=C12)CCCC1=NC2=NC=CC=C2C=C1)=O | C27H31N3O2
catalyst | palladium on carbon | 30 mg | [Pd] | Pd
solvent | methanol | 5 mL | CO | CH4O
product | 3-{5-[3-(5,6,7,8-Tetrahydro-[1,8]naphthyridin-2-yl)-propyl]-indol-1-yl}-hexanoic acid ethyl ester | 80% yield | C(C)OC(CC(CCC)N1C=CC2=CC(=CC=C12)CCCC1=NC=2NCCCC2C=C1)=O | C27H35N3O2
